US08119569B2
Methyl 3-hydroxy-2-methyl-4-nitrobenzoate (1.55 g) and 2-chloroethyl methyl ether (1.8 g) were dissolved in anhydrous DMF (20 mL), and potassium carbonate (1.25 g) and potassium iodide (300 mg) were added, followed by stirring at 90° C. for 20 hours. To the reaction mixture, ethyl acetate (200 mL) was added, followed by washing twice with saturated brine. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain methyl 3-(2-methoxyethoxy)-2-methyl-4-nitrobenzoate (2.1 g) as pale yellow solid.

reactant | Methyl 3-hydroxy-2-methyl-4-nitrobenzoate | 1.55 g | OC=1C(=C(C(=O)OC)C=CC1[N+](=O)[O-])C | C9H9NO5
reactant | 2-chloroethyl methyl ether | 1.8 g | COCCCl | C3H7ClO
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 300 mg | [I-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-(2-methoxyethoxy)-2-methyl-4-nitrobenzoate | 2.1 g | COCCOC=1C(=C(C(=O)OC)C=CC1[N+](=O)[O-])C | C12H15NO6
